US07354939B2
4-(5-Chloro-2-isopropylaminopyridin-4-yl)-1H-pyrrole-2-carboxylic acid [1-(3-chlorophenyl)-2-hydroxyethyl]amide:
To a suspension of 4-(5-chloro-2-isopropylaminopyridin-4-yl)-1H-pyrrole-2-carboxylic acid (1.93 g, 6.9 mmol, 1.0 equivalent) in DMF (5.0 mL) was added EDCI (1.45 g, 7.6 mmol, 1.1 equivalents), HOBt (0.94 g, 6.9 mmol, 1.0 equivalent) and (S)-3-chlorophenylglycynol (1.58 g, 7.6 mmol, 1.1 equivalents). Diisopropylethylamine (2.7 mL) was then added and the resulting mixture was stirred a room temperature overnight. The mixture was then poured into water and extracted with ethyl acetate. After drying over sodium sulfate, the solvent was removed and the crude was adsorbed on silica gel. Purification was effected by flash chromatography on silica, eluting with mixtures of hexanes/acetone (from 80:20 to 60:40) to afford the title compound as white solid (1.9 g, 64%). Rt(min) 4.981 s. FIA MS: 433.1 ES+; 431.2 ES−. 1HNMR (CD3OD) δ 1.31 (d, 6H), 3.85 (m, 3H), 5.15 (t, 1H), 7.01 (s, 1H), 7.25 (m, 3H), 7.4 (s, 1H), 7.45 (s, 1H), 7.7 (s, 1H), 7.95 (s, 1H).

reactant | 4-(5-chloro-2-isopropylaminopyridin-4-yl)-1H-pyrrole-2-carboxylic acid | 6.9 mmol, 1.93 g, 1.0 equivalent | ClC=1C(=CC(=NC1)NC(C)C)C=1C=C(NC1)C(=O)O | C13H14ClN3O2
reactant | EDCI | 7.6 mmol, 1.45 g, 1.1 equivalents | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 6.9 mmol, 0.94 g, 1.0 equivalent | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | (S)-3-chlorophenylglycynol | 7.6 mmol, 1.58 g, 1.1 equivalents | C1=CC(=CC(=C1)Cl)[C@@H](CO)N | C8H10ClNO
reactant | Diisopropylethylamine | 2.7 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-(5-Chloro-2-isopropylaminopyridin-4-yl)-1H-pyrrole-2-carboxylic acid [1-(3-chlorophenyl)-2-hydroxyethyl]amide | 1.9 g, 64% | ClC=1C=C(C=CC1)C(CO)NC(=O)C=1NC=C(C1)C1=CC(=NC=C1Cl)NC(C)C | C21H22Cl2N4O2
